US08604069B2
(A-27-2) 3-Isobutylcyclobutylamine hydrochloride
tert-Butyl (3-isobutylcyclobutyl)carbamate (2.90 g) and dioxane (15 mL) were mixed. To the mixture was added a solution of 4 N hydrochloric acid in dioxane (15 mL) at 10° C. The mixture was stirred at RT overnight. The reaction mixture was concentrated in vacuo to give the title compound (1.97 g) as a crude product.

reactant | tert-Butyl (3-isobutylcyclobutyl)carbamate | 2.90 g | C(C(C)C)C1CC(C1)NC(OC(C)(C)C)=O | C13H25NO2
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 3-Isobutylcyclobutylamine hydrochloride | 1.97 g | Cl.C(C(C)C)C1CC(C1)N | InChI=1S/C8H17N.ClH/c1-6(2)3-7-4-8(9)5-7;/h6-8H,3-5,9H2,1-2H3;1H
